US07977441B2
Under a nitrogen atmosphere at −50° C., 1.6 mol/l hexane solution of n-butyllithium was added to 30 ml of a tetrahydrofuran solution containing 3 g of ethynylnaphthalene. After cooling to −90° C., 15 ml of a tetrahydrofuran solution containing 2.5 g of potassium tertiary butoxide was added thereto, and the mixture was stirred at −80° C. for 1 hour and then allowed to warm to 5° C. 3.3 g of bromohexane was added dropwise at −70° C., and the mixture was stirred at 30° C. overnight. 100 ml of water was added dropwise at 0° C., and the compounds generated were extracted with added hexane. The hexane layer was washed thrice with 300 ml of distilled water and dried over anhydrous magnesium sulfate for 24 hours, and the mixture was then filtered and evaporated for removal of the solvent. After column purification and solvent removal, the product was purified by column chromatography while hexane was used as the developing solvent, to give 2.2 g of 1-ethynyl-2-n-hexylnaphthalene.

reactant | n-butyllithium | C(CCC)[Li]
reactant | ethynylnaphthalene | 3 g | C(#C)C1=CC=CC2=CC=CC=C12 | C12H8
reactant | potassium tertiary butoxide | 2.5 g | CC(C)([O-])C.[K+]
reactant | bromohexane | 3.3 g | BrCCCCCC | C6H13Br
solvent | water | 100 ml | O | H2O
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | hexane | 1.6 mol/l | CCCCCC | C6H14
product | 1-ethynyl-2-n-hexylnaphthalene | 2.2 g | C(#C)C1=C(C=CC2=CC=CC=C12)CCCCCC | C18H20
